US07091214B2
A modification of the method described in Part D of Example 10 was used to treat 8-bromoquinoline-2,4-diol (10.0 g, 41.6 mmol) with nitric acid (3.6 mL of 11.74 M, 54 mmol). The nitric acid was added at ambient temperature, and then the reaction was heated at 100° C. for one hour, at which time an exotherm occurred. The reaction was allowed to cool to ambient temperature; a precipitate formed and was isolated by filtration and washed with a small volume of water to provide 7.58 g of 8-bromo-3-nitroquinoline-2,4-diol as a yellow solid.

reactant | 8-bromoquinoline-2,4-diol | 41.6 mmol, 10.0 g | BrC=1C=CC=C2C(=CC(=NC12)O)O | C9H6BrNO2
reactant | nitric acid | 54 mmol, 11.74 M, 3.6 mL | [N+](=O)(O)[O-] | HNO3
product | 8-bromo-3-nitroquinoline-2,4-diol | 7.58 g | BrC=1C=CC=C2C(=C(C(=NC12)O)[N+](=O)[O-])O | C9H5BrN2O4
